US07696223B2
c) 2-tert-butyl-7-hydroxy-4-isopropylsulfanylmethyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A solution of 2-tert-butyl-7-(2,2-dimethyl-propionyloxy)-4-isopropylsulfanylmethyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (150 mg, 0.33 mmol) and sodium ethoxide (215 mg of 21% sodium ethoxide in ethanol) in 0.6 mL of ethanol was heated at 90° C. for 2 h. The reaction mixture was diluted with ethyl acetate and washed with 1 N HCl and brine. The organic fraction was dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by column chromatography, eluting the desired product from silica gel with a gradient of 0-40% ethyl acetate in hexanes to give 80 mg of a clear oil. MS (ESI+): m/z 368.9 (M+1).

reactant | 2-tert-butyl-7-(2,2-dimethyl-propionyloxy)-4-isopropylsulfanylmethyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.33 mmol, 150 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)CSC(C)C)N=C(S2)C(C)(C)C)OC(C(C)(C)C)=O | C22H32N2O4S2
reactant | sodium ethoxide | 215 mg | [O-]CC.[Na+]
solvent | ethanol | 0.6 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-butyl-7-hydroxy-4-isopropylsulfanylmethyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 80 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)CSC(C)C)N=C(S2)C(C)(C)C)O | C17H24N2O3S2
